US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-methoxybenzoyl chloride (72 mg, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 33 mg (27%) of 18-(4-methoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.0% pure (HPLC), MS m/z 701 (M−H)−, HRMS: calcd. 703.3013 and found 703.3006 (M+H)+, mp 151-153° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 4-methoxybenzoyl chloride | 0.53 mmol, 72 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 18-(4-methoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 33 mg, 27% | COC1=CC=C(C(=O)OC2CN3C(C(CCCCCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=C1 | C34H46N4O10S
